Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
The patient is an ___ year old female with no significant cardiac 
history, history of CVA in ___ (w/no deficits) who presents 
with 1 week of cough and increasing dsypnea and acute onset of 
chest pain on the day of admission.  The patient states that for 
the past week she has noticed a non-productive cough and 
increasing dysypnea on exertion, no fevers. Today she acutely 
became nauseous and vomited once.  She then began having chest 
pain that extended across her entire chest.  The pain was 
non-radiating to the back, neck or arms, rated at ___ in 
severity and lasted about ___ minutes before she called a 
friend who called EMS. She denies ever having pain like this 
before and denies any recent social stressors.

In the ambulence she was treated with nitroglycerin which 
improved her pain to a ___ in severity.  In the ___ ED, she 
received a second dose of nitroglycerin and obtained an EKG 
which was concerning for 1mm ST elevations in the inferiolateral 
leads and hyperacute T waves in V2-V4.  Given concern for 
ischemia, she was taken for cardiac catheterization which showed 
insignificant coronary artery disease and left ventriculogram 
demonstrated apical ballooning consistent with Takotsubo.

Of note, the patient states that her blood pressure at times 
ranges from 90-190 systolic with no known cause.  She also 
endorses times of diaphoresis and heart palpitations while lying 
in bed. It is unclear how long these symptoms have been going 
on. 

Upon arrival to the CCU, vital signs: 
temp 97.5 hr 92 bp 113/74 rr 14 98% on RA
The patient complains of nausea and vomited once upon arrival, 
denies any chest pain or difficulty breathing. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Hypertension, No h/o: Diabetes or 
Dyslipidemia  
2. CARDIAC HISTORY:  No previous cardiac history
3. OTHER PAST MEDICAL HISTORY:  
Idiopathic Peripheral neuropathy
GERD
Osteoarthritis
Hypothyroidism
Hearing Loss
Lacunar stroke
Osteoporosis
Macular degeneration
Posterior Vitreous detachment
Glaucoma
Thrombocytopenia (has been less than 100)
 
Social History:
___
Family History:
Grandfather diagnosed with "coronary thrombosis", otherwise, no 
other known family history of cardiac disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: temp 97.5 hr 92 bp 113/74 rr 14 98% on RA
General:  no acute distress, lying comfortably in bed, 
conversant
HEENT: NCAT 
Neck:  difficult to assess JVD given flat position
CV:  tachycardia, RRR, normal S1, S2, no murmurs/rubs/gallops
Lungs:  clear to ascultation anteriorly
Abdomen:  +BS, soft, nontender, nondistended
GU:  no foley in place
Ext:  +DP pulses bilaterally (palpable)
Neuro:  awake, alert, appropriate

DISCHARGE PHYSICAL EXAM
Afebrile, vital signs stable, no events on tele
General:  no acute distress
HEENT: EOMI, clear oropharynx
Neck:  no JVD
CV:  RRR, normal S1, S2, no murmurs/rubs/gallops
Lungs:  clear to ascultation 
Abdomen:  +BS, soft, nontender, nondistended
GU:  no foley in place
Ext:  +DP pulses bilaterally (palpable)
Neuro:  awake, alert, appropriate
 
Pertinent Results:
ADMISSION LABS
___ 07:55PM BLOOD WBC-12.5*# RBC-4.27# Hgb-14.2 Hct-41.1# 
MCV-96 MCH-33.2* MCHC-34.5 RDW-13.4 Plt ___
___ 07:55PM BLOOD Neuts-80.5* Lymphs-13.5* Monos-4.8 
Eos-0.6 Baso-0.6
___ 07:55PM BLOOD ___ PTT-28.1 ___
___ 07:55PM BLOOD Plt ___
___ 07:55PM BLOOD Glucose-151* UreaN-19 Creat-0.5 Na-139 
K-3.6 Cl-104 HCO3-25 AnGap-14
___ 07:55PM BLOOD CK(CPK)-65
___ 07:55PM BLOOD CK-MB-7
___ 07:55PM BLOOD cTropnT-0.10*
___ 04:29AM BLOOD CK-MB-20* MB Indx-13.6* cTropnT-0.49*
___ 07:55PM BLOOD Calcium-8.6 Phos-3.4 Mg-2.1

OTHER LABS
___ 04:29AM BLOOD Triglyc-48 HDL-41 CHOL/HD-2.9 LDLcalc-67

CARDIAC CATHETERIZATION ___
Hemodynamics (see above):   The left ventricular end diastolic
pressure was slightly elevated at 18 mmHg. 

Coronary angiography:  right dominant

LMCA:  Normal
LAD:   The LAD was patent.  It may minimal lumen irregularities
in the proximal and mid portion.  There were two small diagonal
branches without disease.   The distal LAD was a smaller caliber
vessel with 40-50% stenoses. It was patent just to the apex.  

LCX:  The LCX was a large vessel.  It gave rise to a large
bifurcating OMB with the appearance of a short intramyocardial
bridge.  The LCX was free of disease.

RCA:  The RCA was a hyperdominant vessel that was free of
significant disease.

Left ventriculogram demonstrated anterior wall, apical, and
inferoapical akinesis and dyskinesis consistent with an anterior
wall myocardial infarction. 

EKG:  NRS @ 100bpm, normal axis, intervals wnl, 1mm ST 
elevations in II, V4-V5

ECHO ___
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. There is moderate regional 
left ventricular systolic dysfunction with mid to distal/apical 
hypokinesis to akinesis suggestive of Takotsubo cardiomyopathy. 
No masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size is 
normal. with focal hypokinesis of the apical free wall. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is an 
anterior space which most likely represents a prominent fat pad. 
 

CXR ___
An AP single view of the chest has been obtained with patient in 

sitting semi-upright position.  Comparison is made with the next 
preceding PA and lateral chest examination of ___. 
 The heart size may have increased slightly, but this finding is 
uncertain as the present portable AP single chest view inherits 
a degree of geometric distortion.  Thoracic aorta is unchanged 
with ordinary ___ but some calcium deposits in the wall 
at the level of the arch.  There is some degree of perivascular 
haze in the lung bases and indistinct contours of the pleural 
sinuses suggestive of some beginning pleural effusion, but there 
is no evidence of overt central pulmonary parenchymal edema.  No 
new discrete pulmonary parenchymal infiltrates are noted and no 
pneumothorax is present in the apical area. 
  
On comparison with the previous examination, the findings are 
consistent with mild degree or early stages of CHF.  A lateral 
view could be helpful to identify if pleural effusion has 
accumulated in the posterior pleural sinuses. 

MICROBIOLOGY
___ 05:49AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:49AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 05:49AM URINE RBC-3* WBC-7* Bacteri-FEW Yeast-NONE 
Epi-<1
UCulure negative
Urine legionella Ag negative
Blood cx negative to date

DISCHARGE LABS
___ 06:39AM BLOOD WBC-10.1 RBC-3.76* Hgb-12.4 Hct-36.5 
MCV-97 MCH-33.1* MCHC-34.1 RDW-13.4 Plt ___
___ 06:39AM BLOOD Glucose-103* UreaN-14 Creat-0.6 Na-136 
K-4.2 Cl-102 HCO3-26 AnGap-12
___ 06:39AM BLOOD Mg-2.___ year old female with no significant cardiac history, history 
of CVA in ___ (w/no deficits), with 1 week of cough and 
increasing dsypnea presented with acute chest pain now s/p 
cardiac cath and found to have Takotsubo cardiomyopathy. 

ACTIVE ISSUES
# Takotsubo cardiomyopathy
The patient has no significant cardiac history or caridac risk 
factors and presented with acute onset of chest pain, nausea and 
vomiting.  Given concern on EKG for ST elevations and positive 
troponin, the patient was taken for cardiac catheterization.  
Cardiac cath showed insignificant coronary artery disease and 
left ventriculogram demonstrated apical ballooning, consistent 
with Takotsubo cardiomyopathy.  She has remained hemodynamically 
stable.  Takotsubo cardiomyopathy was treated with ASA, heparin 
gtt, metoprolol, and atorvastatin 10 (given normal lipid panel) 
and she was diuresed for heart failure with improved breathing 
and decreased crackles on exam. Despite her moderate LV systolic 
dysfunction and apical hypo- to akinesis, patient declined 
starting coumadin for thrombus prevention, even after the risk 
of being thrombus embolization was explained.  She was diuresed 
for her acute heart failure, and was euvolemic at discharge and 
HDS. 
 
# Leukocytosis
Patient found to have leukocytosis of 12.5 with 80.5% 
neutrophils and presented with a one week history of 
non-productive cough and increasing dyspnea on exertion.  She 
denied any fevers at home and had not seen her PCP for this.  
CXR was concerning for a right middle lobe pneumonia initially.  
Blood, urine cx and urine Legionella were negative to date.  She 
was treated for CAP with levaquin 750mg IV q48hrs for 7 day 
course with last dose given ___ at discharge.

CHRONIC ISSUES
# Thrombocytopenia
Patient has a history of thrombocytopenia and it is well 
documented that her platelet count has been less than 100,000.  
Was monitored throughout admission and stable

#  Hypothyroidism
Continued home levothyroxine
 
#  GERD
Continued home ranitidine

#  Osteoporosis
Continued home vitamin D

#  Idiopathic Peripheral Neuropathy
Home gabapentin was initially held and then restarted at home 
dose. 

TRANSITIONAL ISSUES
Patient declined starting coumadin for apical hypo to akinesis, 
after risks benefits explained. 
Blood cultures ___ NTD x2, pending final at discharge
ACEI not started as pt's BPs were borderline low in SBP ___ to 
___ at times, and should be started as outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Ranitidine 150 mg PO BID 
3. Gabapentin 200 mg PO HS 
4. Levoxyl (levothyroxine) 88 mcg Oral daily 
5. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 200 mg PO HS 
3. Ranitidine 150 mg PO BID 
4. Vitamin D ___ UNIT PO DAILY 
5. Levoxyl (levothyroxine) 88 mcg Oral daily 
6. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
7. Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0
8. Atorvastatin 10 mg PO DAILY 
RX *atorvastatin 10 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Outpatient Lab Work
ICD 9 276.9
Please check chem 7 on ___ 
send results to ___: ___  Fax: 
___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Takotsubo Cardiomyopathy

SECONDARY
Community-acquired pneumonia
Thrombocytopenia
Hypothyroidism
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___.  You came in with 
chest pain and underwent cardiac catheterization which showed 
that you were not having a heart attack.  You were diagnosed 
with Takotsubo cardiomyopathy, which decreases the pumping 
ability of the heart. This is a condition that usually improves 
over time. On discharge, your heart rate and blood pressure were 
stable.

You will need another heart ultrasound in 1 month, to confirm 
that your heart function is improving. 

You also had a small pneumonia while in the hospital and this 
was treated with an antibiotic called levofloxacin.

It was a pleasure taking care of you. We wish you a speedy 
recovery.
Your ___ team
 
Followup Instructions:
___